// Gate capacitance of nmos transistor using S-parameter analysis

simulator lang=spectre
global 0
parameters VG_VAL=0.8
include "22nm_HP.pm"

parameters k=1.3
parameters Wn=44n
parameters Lp=22n

// Transistor Instantiation

M0 (0 net4 0 0) nmos w=Wn l=Ln
PORT0 (net4 0) vsource dc=VG_VAL type=sine ampl=1m mag=1m phase=0
ac1 ac start=100 stop=10M step=1000 annotate=status

save PORT0:p
saveOptions options save=allpub
